US07217737B2
M20: (EI-3-(3,5-di-t-butyl-4-hydroxyphenyl)-2-[(3-phenyl-n-propyl)aminocarbonyl]acrylonitrile
M20 was prepared using 3,5-di-t-butyl-4-hydroxybenzaldehyde and N-3-phenyl-n-propyl cyanoacetamide under the similar conditions as descibed for M21 infra.

reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | N-3-phenyl-n-propyl cyanoacetamide | C1(=CC=CC=C1)CCCNC(CC#N)=O | C12H14N2O
product | 3-(3,5-di-t-butyl-4-hydroxyphenyl)-2-[(3-phenyl-n-propyl)aminocarbonyl]acrylonitrile | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C(C#N)C(=O)NCCCC1=CC=CC=C1 | C27H34N2O2
